US06150373
A mixture of 100 mg (0.26 mmol) of 3-(2,6-dichlorophenyl)-3,4-dihydro-7-methanesulfonyl-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 400 μl (3.4 mmol) of phenethylamine was heated at 180° C. for 4 hours and then cooled to room temperature. The mixture was dissolved in 10 ml of ethyl acetate and washed in sequence with 10 ml of 2M hydrochloric acid and 10 ml of saturated aqueous sodium bicarbonate solution. The ethyl acetate phase was separated, dried over magnesium sulfate, filtered and evaporated. The crude product was purified by flash column chromatography on silica gel using 5% methanol/dichloromethane for the elution. Product-containing fractions were combined and evaporated to give 35 mg of 3-(2,6-dichlorophenyl)-3,4-dihydro-1-methyl-7-(2-phenylethylamino)pyrimido[4,5-d]pyrimidin-2(1H)-one as a pale yellow solid of melting point 148-151° C.

reactant | 3-(2,6-dichlorophenyl)-3,4-dihydro-7-methanesulfonyl-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.26 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
reactant | phenethylamine | 3.4 mmol, 400 μl | C(CC1=CC=CC=C1)N | C8H11N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2,6-dichlorophenyl)-3,4-dihydro-1-methyl-7-(2-phenylethylamino)pyrimido[4,5-d]pyrimidin-2(1H)-one | 35 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NCCC1=CC=CC=C1)C)=O | C21H19Cl2N5O
